US08278338B2
47 ml of n-butyllithium solution (1.6 mol./l in n-hexane) were added dropwise at a temperature of from −30 to −35° C. to a solution of 7.3 ml of 3-bromopyridine in about 125 ml of diethyl ether p.a. After a further 20 minutes at that temperature, 11 g of 2-dimethylaminomethyl-5-methoxy-indan-1-one, dissolved in diethyl ether p.a., were added dropwise, with continued cooling, stirring was continued for 40 minutes at that temperature, and heating was carried out overnight to room temperature. Then 46 ml of water were added at from −10 to 0° C., the phases were separated, the aqueous phase was extracted with diethyl ether (monitoring by thin-layer chromatography), and the combined organic phases were washed with saturated sodium chloride solution and dried over magnesium sulfate, filtered and concentrated. The resulting crude product was chromatographed on silica gel with ethyl acetate/25% ammonia solution (v/v=98:2). 7.06 g of 2-dimethylaminomethyl-5-methoxy-1-pyridin-3-yl-indan-1-ol were obtained and were dissolved in about 125 ml of 2-butanone p.a. and converted into the corresponding hydrochloride with about 0.3 ml of water and about 4.2 ml of chlorotrimethylsilane, while cooling with ice; the hydrochloride was filtered off with suction with the exclusion of air and dried in vacuo (about 50 mbar) (yield 6.79 g, mixture of the two diastereoisomers).

reactant | n-butyllithium | 1.6 mol, 47 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 7.3 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-dimethylaminomethyl-5-methoxy-indan-1-one | 11 g | CN(C)CC1C(C2=CC=C(C=C2C1)OC)=O | C13H17NO2
reactant | water | 46 ml | O | H2O
solvent | diethyl ether | about 125 ml | C(C)OCC | C4H10O
product | 2-dimethylaminomethyl-5-methoxy-1-pyridin-3-yl-indan-1-ol | 7.06 g | CN(C)CC1C(C2=CC=C(C=C2C1)OC)(O)C=1C=NC=CC1 | C18H22N2O2
